US08252755B2
Preparation of 1-amino-5-(bis(4-methoxyphenyl)(phenyl)methoxy)pentan-3-ol (IV)
Benzyl 5-(bis(4-methoxyphenyl)(phenyl)methoxy)-3-hydroxypentylcarbamate (15.4 g, 27.7 mmoles) is dissolved in methanol (250 mL) and the solution is poured into a hydrogenation flask. 10% Palladium on carbon (1.5 g, 50% water by weight) is added, and the flask is sealed. The atmosphere in the flask is evacuated using a diaphragm pump, and replaced with dry argon to 10 psi. This cycle of evacuation/argon purging is repeated four more times. The flask is then evacuated once more and filled with hydrogen to 30 psi. The suspension is stirred briskly at ambient temperature for 16 hours. Hydrogen is replaced to 30 psi as necessary during the first four hours of reaction. The flask is then evacuated to remove hydrogen, and refilled with argon to atmospheric pressure. The catalyst is removed by filtration using a 0.45 μm nylon membrane, and washed with methanol (100 mL). The combined methanol filtrates are evaporated to dryness to give a white glassy foam, which is further dried in vacuo. The yield is 11.4 g (98%).

reactant | Benzyl 5-(bis(4-methoxyphenyl)(phenyl)methoxy)-3-hydroxypentylcarbamate | 27.7 mmoles, 15.4 g | COC1=CC=C(C=C1)C(OCCC(CCNC(OCC1=CC=CC=C1)=O)O)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C34H37NO6
solvent | methanol | 250 mL | CO | CH4O
catalyst | Palladium on carbon | 1.5 g | [Pd] | Pd
product | 1-amino-5-(bis(4-methoxyphenyl)(phenyl)methoxy)pentan-3-ol | NCCC(CCOC(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)O | C26H31NO4
